2103-02-24 09:26:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   MRI overnight
   improved mental status
   extubated in am, 1 run nsvt
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-2-24**] 07:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-2-24**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 59 (58 - 73) bpm
   BP: 153/51(79) {113/39(59) - 159/61(94)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 63 Inch
             Total In:
                                                                  3,166 mL
                                                                  1,863 mL
   PO:
             TF:
   IVF:
                                                                    166 mL
                                                                  1,803 mL
   Blood products:
   Total out:
                                                                    320 mL
                                                                    390 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,846 mL
                                                                  1,473 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Venti mask , Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 270
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.40/57/213/33/8
   Ve: 6.6 L/min
   PaO2 / FiO2: 426
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   203 K/uL
   180 mg/dL
   0.6 mg/dL
   33 mEq/L
   4.0 mEq/L
   37 mg/dL
   103 mEq/L
   148 mEq/L
   27.9 %
   7.5 K/uL
        [image002.jpg]
                             [**2103-2-23**]  11:41 PM
                             [**2103-2-24**]  03:11 AM
                             [**2103-2-24**]  03:24 AM
   WBC
   7.5
   Hct
   32
   27.9
   Plt
   203
   Cr
   0.6
   TCO2
   42
   37
   Glucose
   180
   Other labs: PT / PTT / INR:13.8/22.7/1.2, Lactic Acid:0.4 mmol/L,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR - small lung volumes, no effusion
   Head CT - decreased blood at site of prior hemorrhage
   Assessment and Plan
   62 yo F history of DM2, hypoglycemic coma, recent temporal hemorrhage
   presents with mental status changes from nursing home.  At this point,
   unclear source for mental status changes, catastrophic events ruled out
   including new bleed, stroke, meningitis.  She has had recent diarrhea
   and metformin use, ? metabolic acidosis worsening CO2 retention in
   woman with baseline COPD who is not able to compensate w increased
   ventilation, leading to CO2 aggitation, then with increased sedating
   medications (received benzos at NH), leading to somnolence.  Will
   continue to rule out infectious sources, f/u final assesment from
   neurology.
   1. Mental Status changes:
    - f/u neurology
    - f/u abg, monitor CO2
    - f/u final read MRI
   2. Respiratory failure: intubated [**12-18**] "airway protection" now extubated
    - cont COPD regimen: standing atrovent nebs, fluticasone [**Hospital1 **]
   3. s/p intracranial hemorrhage:
   - f/u neurology recs
    - cont keppra
    - no a/c
   4. DM2:
    - RISS
    - holding metformin, avandia
     - fu HgA1c
   5. PAF
    - continue bb (will give short-acting lopressor then transition to
   acebutolol)
    - no coumadin given recent bleed
   6.  Diarrhea:
    - f/u cdif cx
   7. FEN:
    - Diabetic diet when able to tolerate POs
    - monitor and replete lytes
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2103-2-24**] 07:45 AM
   20 Gauge - [**2103-2-24**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 60 minutes

2103-02-25 08:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   extubated
   MRI stable
   EEG obtained, results pending
   continues to be hypercarbic
                   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-2-25**] 12:00 AM
   Other medications:
   sq heparin
   flovent
   prilosec
   enalapril
   RISS
   atrovent
   albuterol
   keppra
   acebutolol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-2-25**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 35.9
C (96.7
   HR: 67 (59 - 93) bpm
   BP: 179/68(103) {123/45(67) - 207/68(107)} mmHg
   RR: 20 (15 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,267 mL
                                                                     85 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  2,367 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                    325 mL
   Urine:
                                                                    615 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,262 mL
                                                                   -240 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 449 (340 - 449) mL
   PS : 14 cmH2O
   RR (Spontaneous): 17
   PEEP: 4 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   SpO2: 93%
   ABG: 7.35/76.[**Numeric Identifier 299**]/59/39/11
   Ve: 6.8 L/min
   PaO2 / FiO2: 197
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   174 K/uL
   153 mg/dL
   0.6 mg/dL
   39 mEq/L
   3.9 mEq/L
   26 mg/dL
   101 mEq/L
   147 mEq/L
   26.2 %
   7.1 K/uL
        [image002.jpg]
                             [**2103-2-24**]  03:11 AM
                             [**2103-2-24**]  03:24 AM
                             [**2103-2-24**]  09:00 AM
                             [**2103-2-24**]  10:50 AM
                             [**2103-2-24**]  11:49 AM
                             [**2103-2-24**]  12:47 PM
                             [**2103-2-24**]  06:25 PM
                             [**2103-2-25**]  03:48 AM
                             [**2103-2-25**]  03:55 AM
                             [**2103-2-25**]  06:04 AM
   WBC
   7.5
   7.1
   Hct
   27.9
   26.2
   Plt
   203
   174
   Cr
   0.6
   0.6
   TCO2
   37
   45
   44
   43
   43
   48
   49
   44
   Glucose
   180
   153
   Other labs: PT / PTT / INR:13.8/22.7/1.2, Lactic Acid:0.4 mmol/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   62 yo F demential, afib, tia, SAH, COPD/Asthma, presents with acute
   mental status change/aggitation
   1. Aggitation/Altered mental status: improving, although remains
   hypercarbic, baseline unclear
    - infectious processes including meningitis ruled out
    - f/u neurology input, EEg read
    - BiPap as needed for hypercarbia, cont standing nebs, fluticasone
    - oob to chair
   2. s/p hemorrhage:
    - cont keppra for now
    - f/u eeg
    - f/u neurology recommendations
   3. Afib:
    - cont bb
   4. FEN:
    - advancing diet as tolerated
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2103-2-24**] 07:45 AM
   20 Gauge - [**2103-2-24**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 30 minutes
   Patient is critically ill

2103-02-27 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Restarted avandia and glipizide, metformin d/c'd given diarrhea.
   Januvia is not on formulary so held.
   Continued to be agitated and pulling at lines, got zyprexa 2.5mg po x2
   and haldol 2mg po with moderate effect.
   Was off CPAP and awake most of the night, when fell asleep desaturated
   to the 70's on 3L NC.  ABG 7.31/94/61
   CPAP restarted
   EEG with slowing in temporal region at site of the bleed, no evidence
   of seizure activity.
   Neuro recommends continuing keppra at least until she follows up with
   neurosurgery.  Neurology signed off.
   History obtained from Patient
   Allergies:
   History obtained from PatientMotrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-2-27**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-2-27**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 69 (58 - 78) bpm
   BP: 160/55(79) {105/23(48) - 167/90(97)} mmHg
   RR: 32 (17 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    640 mL
                                                                    250 mL
   PO:
                                                                    640 mL
                                                                    250 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    785 mL
   Urine:
                                                                    770 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -430 mL
                                                                   -535 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 99%
   ABG: 7.30/94.[**Numeric Identifier 299**]/61/40/15
   Physical Examination
   Gen: awake, odd affect, NAD
   HEENT: pupils 1mm bilaterally, symmetric and reactive to light, MMM, op
   clear
   Neck: supple
   CV: RRR s1 s2 no appreciable murmur
   Abd: obese, soft, non distended, no apparent tenderness, BS +
   EXT: warm, 1+ pitting edema
   Skin: no rashes or lesions
   Labs / Radiology
   220 K/uL
   8.7 g/dL
   167 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.8 mEq/L
   15 mg/dL
   100 mEq/L
   144 mEq/L
   27.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2103-2-24**]  12:47 PM
                             [**2103-2-24**]  06:25 PM
                             [**2103-2-25**]  03:48 AM
                             [**2103-2-25**]  03:55 AM
                             [**2103-2-25**]  06:04 AM
                             [**2103-2-25**]  10:55 AM
                             [**2103-2-26**]  04:05 AM
                             [**2103-2-26**]  06:57 AM
                             [**2103-2-27**]  02:35 AM
                             [**2103-2-27**]  06:38 AM
   WBC
   7.1
   7.8
   6.8
   Hct
   26.2
   26.7
   27.6
   Plt
   174
   201
   220
   Cr
   0.6
   0.5
   0.6
   TCO2
   43
   48
   49
   44
   41
   48
   48
   Glucose
   153
   206
   167
   Other labs: PT / PTT / INR:12.3/23.3/1.0, Lactic Acid:0.4 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Stool [**2-24**]: Neg C. diff
   MRSA [**2-24**]: negative
   Urine cx [**2-23**]: Negative
   CSF [**2-23**]: negative
   EEG prelim: slowing of activity at site of temporal bleed.  No seizure
   activity
   Assessment and Plan
 DIARRHEA
 HYPERTENSION, BENIGN
 SUBARACHNOID HEMORRHAGE (SAH)
 DIABETES MELLITUS (DM), TYPE II
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   Ms. [**Known lastname 5699**] is a 62 yo F PMH of afib, TIA, memory loss s/p
   hypoglycemic coma, chronic low back pain, anemia, GERD, asthma recently
   admitted with subarachnoid hemorrhage [**Date range (1) 5700**] readmitted with acute
   change in mental status and agitation
   .
   # Agitation, altered mental status- unclear etiology, no evidence of
   meningitis on LP, no evidence of other infection.  Possibly [**12-18**]
   sedating medications, seizure unlikely given EEG findings.  She was
   seen by neurology who felt that presentation most likely due to
   medication effect would seem most likely, perhaps barbiturate in
   combination with benzos.  Nocturnal hypoglycemia ruled out. No evidence
   of progression of intraparnecymal bleed or new ICH on head cT.  Could
   also be hypercarbia.  More likely an exacerbation of her multifactorial
   delirium.
   - Appreciate neuro recs -> cont keppra for now
   - Limit all sedating medications, prn zyprexa/haldol vs avoiding BZD
   - MRI/MRA head with bulbous basilar artery and enhancement to suggest ?
   seizure, otherwise unremarkable
   - Monitor glucose
   - f/u CSF results, no eivdence of infection
   - EEG prelim no seizure activity, will f/u final read
   .
   # Hypercarbia: Carries a diagnosis of COPD and is on home 02.  Husband
   also questions OSA which could be causing pulm HTN.  Regardless,
   appears to be retaining significant CO2.  On fluticasone at home.
   Likely a chronic retainer as maintains mental status despite very his
   CO2 levels. Has likely obesity hypoventilation/central sleep apnea.
   Drops 02 sats at night when falls asleep supporting the above
   - Monitor ABGs
   - BiPAP at night and prn, work with RT to find stable settings
   - Cont standing nebulizers and fluticasone
   - Maintain low 02 sats 88-90%
   - would benefit from inpatient sleep study
   .
   # Recent Left temporal hemorrhage - unclear etiology, less likely due
   to trauma, more likely [**12-18**] HTN and anticoagulation.  No evidence of
   rebleeding or new bleed on head CT.
   - cont to monitor clinically
   - continue to hold coumadin, plavix
   - Per neurology -> cont keppra for now
   .
   #Paroxysmal Atrial fibrillation: in sinus rhythm on admission
   -coumadin being held given recent hemorrhage
   -not on rate control as outpt
   .
   #Type II DM - has had recent up titration of her diabetes regimen.
   Blood sugars poorly controlled here despite adding back her glipizide,
   avandia.  Januvia not on formulary.
   -will start glargine at 10units to attempt to improve glycemic control
   -hiss
   .
   #COPD - h/o second hand smoke exposure, appears to be chronic CO2
   retainer based on her ABG. No current signs of exacerbation.
   -continue flovent, albuterol, atrovent
   -maintain CO2 60-70
   - Monitor ABGs
    .
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2103-2-27**] 03:24 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: c/o to floor with plan for inpatient sleep study

2103-02-27 11:22:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Change in mental status, chronic respiratory failure,
   hypercarbia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - back on oral hypoglycemics
   - haldol for agitation
   - EEG
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, delerium
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-2-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Edema
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Neurologic: delerium
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2103-2-27**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 66 (59 - 78) bpm
   BP: 186/59(87) {105/23(48) - 186/90(97)} mmHg
   RR: 27 (17 - 32) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    640 mL
                                                                    250 mL
   PO:
                                                                    640 mL
                                                                    250 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    985 mL
   Urine:
                                                                    770 mL
                                                                    985 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -430 mL
                                                                   -735 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 91%
   ABG: 7.32/95.[**Numeric Identifier 252**]/63/40/17
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   220 K/uL
   167 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.8 mEq/L
   15 mg/dL
   100 mEq/L
   144 mEq/L
   27.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2103-2-24**]  06:25 PM
                             [**2103-2-25**]  03:48 AM
                             [**2103-2-25**]  03:55 AM
                             [**2103-2-25**]  06:04 AM
                             [**2103-2-25**]  10:55 AM
                             [**2103-2-26**]  04:05 AM
                             [**2103-2-26**]  06:57 AM
                             [**2103-2-27**]  02:35 AM
                             [**2103-2-27**]  06:38 AM
                             [**2103-2-27**]  08:46 AM
   WBC
   7.1
   7.8
   6.8
   Hct
   26.2
   26.7
   27.6
   Plt
   174
   201
   220
   Cr
   0.6
   0.5
   0.6
   TCO2
   48
   49
   44
   41
   48
   48
   51
   Glucose
   153
   206
   167
   Other labs: PT / PTT / INR:12.3/23.3/1.0, Lactic Acid:0.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Altered mental status-
   -etiology remains unclear -LP negative, no evidence of other infection,
   no evidence of seizure on eeg
   -? secondary to meds?
   -husband states pt is near baseline
   - Limit all sedating medications, zyprexa should be used for agitation
   rather than BZD
   Hypercarbia:
   -COPD, home O2
   -sig CO2 retainer
   CO2 retention
   -COPD, likely component central sleep apnea (obesity hypovent), OSA
   -should get sleep study to assess/titrate therapy
   -cont standing nebs and fluticasone
   -target sats 88-90
   Recent SAH
   - No evidence of rebleeding or new bleed on head CT.
   - ? if still requires Keppra, check w/ neuro
   Paroxysmal Afib
   Type II DM
   - cont regimen
   - SSRI in addition
   Hypertension
   -cont current regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2103-2-27**] 03:24 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2103-03-01 00:19:00 Physician Resident Progress Note
Chief Complaint: Hypercarbia
   24 Hour Events:
   Patient transferred back to ICU given nursing concern of low
   saturations. Patient at baseline on the floor.
   History obtained from Patient
   Patient unable to provide history: Encephalopathy
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-1**] 12:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 70 (63 - 70) bpm
   BP: 159/47(76) {115/27(48) - 159/47(76)} mmHg
   RR: 35 (21 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    200 mL
                  PO:
                                                                    200 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    210 mL
                                                                      0 mL
   Urine:
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -10 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x2,
   Movement: Non -purposeful, Tone: Normal
   Labs / Radiology
   220 K/uL
   8.7 g/dL
   167 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.8 mEq/L
   15 mg/dL
   100 mEq/L
   144 mEq/L
   27.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2103-2-24**]  06:25 PM
                             [**2103-2-25**]  03:48 AM
                             [**2103-2-25**]  03:55 AM
                             [**2103-2-25**]  06:04 AM
                             [**2103-2-25**]  10:55 AM
                             [**2103-2-26**]  04:05 AM
                             [**2103-2-26**]  06:57 AM
                             [**2103-2-27**]  02:35 AM
                             [**2103-2-27**]  06:38 AM
                             [**2103-2-27**]  08:46 AM
   WBC
   7.1
   7.8
   6.8
   Hct
   26.2
   26.7
   27.6
   Plt
   174
   201
   220
   Cr
   0.6
   0.5
   0.6
   TCO2
   48
   49
   44
   41
   48
   48
   51
   Glucose
   153
   206
   167
   Other labs: PT / PTT / INR:12.3/23.3/1.0, Lactic Acid:0.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 DIARRHEA
 HYPERTENSION, BENIGN
 SUBARACHNOID HEMORRHAGE (SAH)
 DIABETES MELLITUS (DM), TYPE II
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with subarachnoid
   hemorrhage [**Date range (1) 5700**] readmitted with acute change in mental status and
   agitation
   .
   # OSA/COPD- patient has baseline elevated PCO2 of 60-70 which is well
   compensated based on pH of 7.35 and bicarbonate of 43. Patient does not
   have an official diagnosis of OSA.
   - patient seen by sleep service, plan as follows:
   - sleep study tonight off PAP but on O2 so she may meet insurance
   criteria
   - monitor with nocturnal pulse oximetry
   - resume AutoSet BiPAP after study at Emin=8cm Imax=20cm max I-E gap
   10cm at night for now, and after the sleep study as well;patient should
   go home on this; can be ordered through [**Hospital 5777**] Medical - the contact there is [**Name (NI) 1332**] [**Last Name (NamePattern1) 5778**], [**Name (NI) 4196**]
   Medical, cell [**Telephone/Fax (1) 5779**]
   - patient to call [**Telephone/Fax (1) 5780**] to arrange follow-up with sleep tol
   arrange formal outpatient BiPAP titration to further tailor settings
   -continue flovent, albuterol, atrovent
   .
   # Agitation, altered mental status- unclear etiology, no evidence of
   meningitis on LP, no evidence of other infection.  Possibly [**12-18**]
   sedating medications, seizure unlikely given EEG findings.  She was
   seen by neurology who felt that presentation most likely due to
   medication effect would seem most likely, perhaps barbiturate in
   combination with benzos.  Nocturnal hypoglycemia ruled out. No evidence
   of progression of intraparnecymal bleed or new ICH on head cT.  Could
   also be hypercarbia.  More likely an exacerbation of her multifactorial
   delirium.
   - Appreciate neuro recs -> cont keppra for now
   - Limit all sedating medications, prn zyprexa/haldol vs avoiding BZD
   - MRI/MRA head with bulbous basilar artery and enhancement to suggest ?
   seizure, otherwise unremarkable
   - Monitor glucose
   - f/u CSF results, no eivdence of infection
   - EEG prelim no seizure activity, will f/u final read
   .
   # Recent Left temporal hemorrhage - unclear etiology, less likely due
   to trauma, more likely [**12-18**] HTN and anticoagulation.  No evidence of
   rebleeding or new bleed on head CT.
   - cont to monitor clinically
   - continue to hold coumadin, plavix
   - Per neurology -> cont keppra for now
   .
   #Paroxysmal Atrial fibrillation: in sinus rhythm on admission
   -coumadin being held given recent hemorrhage
   -not on rate control as outpt
   .
   #Type II DM - has had recent up titration of her diabetes regimen.
   Blood sugars poorly controlled here despite adding back her glipizide,
   avandia.  Januvia not on formulary.
   -will start glargine at 10units to attempt to improve glycemic control
   -hiss
   .
   # HTN
   - continue enalapril and acebutolol
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Insulin infusion
   Lines:
   20 Gauge - [**2103-2-28**] 04:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2103-03-01 10:50:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -returned to ICU for high nursing time requirement
   -sleep study
   History obtained from Medical records
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2103-2-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-1**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 71 (53 - 71) bpm
   BP: 120/77(87) {94/27(48) - 176/88(94)} mmHg
   RR: 15 (12 - 39) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    200 mL
                                                                    530 mL
   PO:
                                                                    200 mL
                                                                    530 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    300 mL
                                                                    325 mL
   Urine:
                                                                    300 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -100 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///40/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.6 g/dL
   280 K/uL
   210 mg/dL
   0.6 mg/dL
   40 mEq/L
   5.6 mEq/L
   13 mg/dL
   100 mEq/L
   144 mEq/L
   31.1 %
   8.5 K/uL
        [image002.jpg]
                             [**2103-2-25**]  03:48 AM
                             [**2103-2-25**]  03:55 AM
                             [**2103-2-25**]  06:04 AM
                             [**2103-2-25**]  10:55 AM
                             [**2103-2-26**]  04:05 AM
                             [**2103-2-26**]  06:57 AM
                             [**2103-2-27**]  02:35 AM
                             [**2103-2-27**]  06:38 AM
                             [**2103-2-27**]  08:46 AM
                             [**2103-3-1**]  05:16 AM
   WBC
   7.1
   7.8
   6.8
   8.5
   Hct
   26.2
   26.7
   27.6
   31.1
   Plt
   174
   201
   220
   280
   Cr
   0.6
   0.5
   0.6
   0.6
   TCO2
   49
   44
   41
   48
   48
   51
   Glucose
   153
   206
   167
   210
   Other labs: PT / PTT / INR:12.3/23.3/1.0, Lactic Acid:0.8 mmol/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Altered mental status:
   -waxing and [**Doctor Last Name 226**] in nature
   -etiology remains unclear -LP negative, no evidence of other infection,
   no evidence of seizure on eeg
   -? secondary to meds?
   -husband states pt is near baseline
   - Limit all sedating medications, zyprexa should be used for agitation
   rather than BZD
   Hypercarbia:
   -COPD, home O2
   -sig CO2 retainer
    -likely multifactorial - COPD, likely component central sleep apnea
   (obesity hypovent), OSA
   -sleep study - assess/titrate therapy
   -cont standing nebs and fluticasone
   -target sats 88-90
   Hyperkalemia
   -? related to ACE
   -recheck pm lab, hold ACE for now
   Recent SAH
   - No evidence of rebleeding or new bleed on head CT.
   - cont Keppra per neuro
   Paroxysmal Afib
   Type II DM
   - cont regimen
   - SSRI in addition
   Hypertension
   -cont current regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2103-3-1**] 09:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2103-03-02 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Enalapril d/c'd given hyperkalemia, although improved to 4.6 and she
   did get her am dose of enalapril prior to d/c
   -rehab screening started
   -changed bipap setting to inspiratory pressure 20, expiratory pressure
   8
   History obtained from Patient
   Allergies:
   History obtained from PatientMotrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-2**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 99 (52 - 99) bpm
   BP: 149/54(72) {119/27(51) - 176/91(106)} mmHg
   RR: 23 (12 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  1,570 mL
                  PO:
                                                                  1,570 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    495 mL
   Urine:
                                                                  1,105 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    465 mL
                                                                   -495 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///40/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x2,
   Movement: Non -purposeful, Tone: Normal
   Labs / Radiology
   183 K/uL
   9.7 g/dL
   116 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.6 mEq/L
   13 mg/dL
   98 mEq/L
   145 mEq/L
   29.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2103-2-26**]  04:05 AM
                             [**2103-2-26**]  06:57 AM
                             [**2103-2-27**]  02:35 AM
                             [**2103-2-27**]  06:38 AM
                             [**2103-2-27**]  08:46 AM
                             [**2103-3-1**]  05:16 AM
                             [**2103-3-1**]  08:00 AM
                             [**2103-3-1**]  12:00 PM
                             [**2103-3-1**]  03:08 PM
                             [**2103-3-2**]  04:01 AM
   WBC
   7.8
   6.8
   8.5
   7.4
   Hct
   26.7
   27.6
   31.1
   29.9
   Plt
   [**Telephone/Fax (3) 5811**]83
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   48
   48
   51
   Glucose
   [**Telephone/Fax (3) 5812**]
   116
   Other labs: PT / PTT / INR:12.3/23.3/1.0, Lactic Acid:0.8 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   MRSA [**2-28**]: Pending
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 OBSTRUCTIVE SLEEP APNEA (OSA)
 DIARRHEA
 HYPERTENSION, BENIGN
 SUBARACHNOID HEMORRHAGE (SAH)
 DIABETES MELLITUS (DM), TYPE II
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   62 yo F PMH of afib, TIA, memory loss s/p hypoglycemic coma, chronic
   low back pain, anemia, GERD, asthma recently admitted with subarachnoid
   hemorrhage [**Date range (1) 5700**] readmitted with acute change in mental status and
   agitation
   .
   .
   # OSA/COPD- patient has baseline elevated PCO2 of 60-70 which is well
   compensated based on pH of 7.35 and bicarbonate of 43. Patient does not
   have an official diagnosis of OSA.
   - patient seen by sleep service, plan as follows:
   - sleep study off PAP but on O2 so she may meet insurance criteria ->
   performed
   - monitor with nocturnal pulse oximetry -> performed
   - resume AutoSet BiPAP after study at Emin=8cm Imax=20cm max I-E gap
   10cm at night for now, and after the sleep study as well;patient should
   go home on this; can be ordered through [**Hospital 4196**] Medical - the
   contact there is [**Name (NI) 1332**] [**Last Name (NamePattern1) 5778**], [**Name (NI) 4196**] Medical, cell [**Telephone/Fax (1) 5779**]
   -> Per case [**Last Name (LF) 5813**], [**First Name3 (LF) 124**] be ordered by facility
   - patient to call [**Telephone/Fax (1) 5780**] to arrange follow-up with sleep to
   arrange formal outpatient BiPAP titration to further tailor settings
   -continue flovent, albuterol, atrovent
   .
   # Agitation, altered mental status- Stable.  Unclear etiology, no
   evidence of meningitis on LP, no evidence of other infection.  Possibly
   [**12-18**] sedating medications, seizure unlikely given EEG findings.  She was
   seen by neurology who felt that presentation most likely due to
   medication effect would seem most likely, perhaps barbiturate in
   combination with benzos.  Nocturnal hypoglycemia ruled out. No evidence
   of progression of intraparnecymal bleed or new ICH on head CT.  Could
   also be hypercarbia.  More likely an exacerbation of her multifactorial
   delirium.
   - Appreciate neuro recs -> cont keppra for now
   - Limit all sedating medications, prn zyprexa/haldol vs avoiding BZD
   - MRI/MRA head with bulbous basilar artery and enhancement to suggest ?
   seizure, otherwise unremarkable
   - Monitor glucose
   - f/u CSF results, no eivdence of infection
   - EEG with no seizures
   .
   # Recent Left temporal hemorrhage - unclear etiology, less likely due
   to trauma, more likely [**12-18**] HTN and anticoagulation.  No evidence of
   rebleeding or new bleed on head CT.
   - cont to monitor clinically
   - continue to hold coumadin, plavix
   - Per neurology -> cont keppra for now
   .
   #Paroxysmal Atrial fibrillation: in sinus rhythm on admission
   -coumadin being held given recent hemorrhage
   -not on rate control as outpt
   .
   #Type II DM - has had recent up titration of her diabetes regimen.
   Blood sugars poorly controlled here despite adding back her glipizide,
   avandia.  Januvia not on formulary.
   - glargine at 10units to attempt to improve glycemic control
   -hiss
   .
   # HTN
   - continue acebutolol
   - Hold enalapril given hyperkalemia
   .
   # Hyperkalemia: Resolved.  Cont to follow, d/c enalapril
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2103-3-1**] 09:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU until transferred to rehab

2103-03-02 09:59:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -ACE inhibitor stopped secondary to hyperkalemia
   Patient unable to provide history: dementia/confusion
   Allergies:
   Motrin (Oral) (Ibuprofen)
   Anaphylaxis;
   Latex
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2103-3-2**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 64 (52 - 99) bpm
   BP: 141/47(106) {119/27(51) - 168/91(106)} mmHg
   RR: 23 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  1,570 mL
                  PO:
                                                                  1,570 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    680 mL
   Urine:
                                                                  1,105 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    465 mL
                                                                   -680 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///40/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): oriented, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.7 g/dL
   183 K/uL
   116 mg/dL
   0.6 mg/dL
   40 mEq/L
   3.6 mEq/L
   13 mg/dL
   98 mEq/L
   145 mEq/L
   29.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2103-2-26**]  04:05 AM
                             [**2103-2-26**]  06:57 AM
                             [**2103-2-27**]  02:35 AM
                             [**2103-2-27**]  06:38 AM
                             [**2103-2-27**]  08:46 AM
                             [**2103-3-1**]  05:16 AM
                             [**2103-3-1**]  08:00 AM
                             [**2103-3-1**]  12:00 PM
                             [**2103-3-1**]  03:08 PM
                             [**2103-3-2**]  04:01 AM
   WBC
   7.8
   6.8
   8.5
   7.4
   Hct
   26.7
   27.6
   31.1
   29.9
   Plt
   [**Telephone/Fax (3) 5811**]83
   Cr
   0.5
   0.6
   0.6
   0.6
   0.6
   TCO2
   48
   48
   51
   Glucose
   [**Telephone/Fax (2) 5812**]
   116
   Other labs: PT / PTT / INR:12.3/23.3/1.0, Lactic Acid:0.8 mmol/L,
   Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Altered mental status:
   -waxing and [**Doctor Last Name 226**] in nature
   -husband states pt is at baseline
   -no etiologies found for decompensation (now resolved)
    Hypercarbia:
   -COPD, home O2
   -sig CO2 retainer
    -likely multifactorial - COPD, likely component central sleep apnea
   (obesity hypovent), OSA
   -sleep study - evidence of OSA.  Will need titration study to assess
   optimal settings
   -cont standing nebs and fluticasone
   -target sats 88-90
   Hyperkalemia
   - appears related to ACE.  Was discontinued.
   Recent SAH
   - No evidence of rebleeding or new bleed on head CT.
   - cont Keppra per neuro
   Paroxysmal Afib
    Type II DM
   - cont regimen
   - SSRI in addition
    Hypertension
   -cont current regimen
   Screening for rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2103-3-2**] 08:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: